Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / metformin
 
Attending: ___.
 
Chief Complaint:
Bacteremia 
 
Major Surgical or Invasive Procedure:
Removal of tunneled HD line ___
Placement of tunneled HD line ___
TEE ___

 
History of Present Illness:
___ w/ PMH DM, HTN, ESRD on dialysis MWF via left IJ tunnel line 
presents with fever and tachycardia. Patient stated that he did 
not feel well on ___, was found to have fever, did not go 
for HD. had peripheral blood cultures drawn in rehab at that 
time. H went to HD unit for catch up session yesterday (___), 
was noted to be tachycardia with low grade temp(100.2), was able 
to complete HD treatment with 1.6L UF. Blood culture turned out 
positive today, patient was then sent to ED for further 
management. Per ED, all blood cultures grew MRSA; gram stain 
with GPCs and GPRs.

Patient was seen in ED, feels ok, denied any chills, no cough or 
shortness of breath, no nausea/vomiting, stated that he still 
makes a good amount of urine, denied any diarrhea and endorses 
chronic constipation that is not bothersome. 

Per chart, he was discharged from the hospital 
(___) for right foot necrotizing fasciitis 
requiring amputation of ___ toe on ___ followed by additional 
debridement on ___, initiated HD during that admission on 
___ with left IJ tunnel line placement.

In the ED, initial vitals: T 100.0 HR 103 BP 138/84 RR 18 O2 97% 
RA 
 
- Exam notable for:  redness at insertion of port site on 
anterior chest without tenderness

- Labs notable for:  
Chemistry: 133/5.8//90/26//42/5.9<132 AG 17
Whole blood K: 5.2
CBC 11.6>11.3/34.6>89
Lactate 1.1 

- Imaging notable for:  
CXR ___:
Large bore dual lumen left-sided central venous catheter 
terminates at the cavoatrial junction/proximal right atrium. 
Cardiac mediastinal silhouettes are unremarkable.  No pleural 
effusion, focal consolidation, evidence of pneumothorax is seen. 


- Renal-Dialysis was consulted who recommended:
1. No indication for HD today
2. Start Vancomycin
3. ___ consult for port removal
4. Holding on replacing HD catheter for now
5. Dose vancomycin by level
- Pt given: 1gm IV vancomycin

- Vitals prior to transfer: HR 95 BP 128/68 RR 16 O2 98% RA
 
On the floor, pt endorses the above history
 
Past Medical History:
ESRD stage 5
DM
HTN
Chronic anemia
History of Septic R Hip ___
R foot ulcer s/p ___ metatarsal resection (___), s/p ___ 
metatarsal removal (___)

 
Social History:
___
Family History:
Mother with colon cancer and hyperlipidemia. Father with type 2 
DM.
 
Physical Exam:
=============
ON ADMISSION 
=============
VITALS:  ___ 1724 Temp: 97.7 PO BP: 181/105 R Lying HR: 109
RR: 18 O2 sat: 98% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain 
Score: ___ 
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. PERRLA, EOMI, MMM, top and 
bottom dentures in place
NECK: No cervical LAD
CARDIAC: Borderline tachycardia, nl rhythm, nl s1/s2, no mrg
LUNGS: non labored respirations, CTAB 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Skin is quite dry 
and flaky. He has purple marker on his right lower extremity 
from his surgery in ___. His right ___ toe is amputated, 
area is non erythematous or swollen. 2+DP pulses
SKIN: Right upper chest s/p port removal with surrounding 
erythematous nodules (?), non tender or edematous
NEUROLOGIC: CN2-12 intact. ___ strength throughout. 

============
DISHCARGE EXAM
============
VITALS: ___ 0448 Temp: 97.4 PO BP: 124/67 HR: 95 RR: 18 O2
sat: 98% O2 delivery: Ra 
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. PERRLA, EOMI, MMM, top and
bottom dentures in place
CARDIAC: nl rhythm, nl s1/s2, no mrg
LUNGS: non labored respirations, CTAB 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Skin is quite dry
and flaky. His right ___ toe is amputated, area is
non erythematous or swollen. 2+DP pulses
SKIN: Right upper chest s/p port removal with surrounding
erythematous nodules (?), non tender or edematous
NEUROLOGIC: No gross motor/coordination abnormalities
SKIN: Site of previous tunnel line c/d/I no pus.  

 
Pertinent Results:
===================
LABS ON ADMISSION 
===================
___ 12:45PM BLOOD WBC-11.6* RBC-3.89*# Hgb-11.3*# 
Hct-34.6*# MCV-89 MCH-29.0 MCHC-32.7 RDW-13.1 RDWSD-42.3 Plt 
___
___ 12:45PM BLOOD Neuts-66.1 Lymphs-14.2* Monos-17.1* 
Eos-1.4 Baso-0.8 Im ___ AbsNeut-7.70*# AbsLymp-1.65 
AbsMono-1.99* AbsEos-0.16 AbsBaso-0.09*
___ 12:45PM BLOOD Plt ___
___ 12:45PM BLOOD Glucose-132* UreaN-42* Creat-5.9*# 
Na-133* K-5.8* Cl-90* HCO3-26 AnGap-17

=======
MICRO 
=======

___  URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___  BLOOD CULTURE Blood Culture, Routine (Pending): 
___  BLOOD CULTURE Blood Culture, Routine (Pending): 
___ BLOOD CULTURE Blood Culture, Routine (Pending): 
___  Blood Culture, Routine (Pending): 
___  Blood Culture, Routine (Pending): 
___  Blood Culture, Routine (Pending):
___  Blood Culture, Routine (Pending):

___ 12:45 pm BLOOD CULTURE      #1. 
Blood Culture, Routine (Preliminary): STAPH AUREUS COAG +. 
Consultations with ID are recommended for all blood cultures 
positive for Staphylococcus aureus, yeast or other fungi. 
FINAL SENSITIVITIES. Oxacillin RESISTANT Staphylococci MUST be 
reported as also RESISTANT to other penicillins, cephalosporins, 
carbacephems, carbapenems, and beta-lactamase inhibitor 
combinations. RIFAMPIN should not be used alone for therapy. 

SENSITIVITIES: MIC expressed in MCG/ML                     
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------     1 I
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

Anaerobic Bottle Gram Stain (Final ___: GRAM POSITIVE 
COCCI IN PAIRS AND CLUSTERS. 

___ 12:45 pm BLOOD CULTURE      #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

============
IMAGING 
============
TEE ___
Good image quality. A ?moderate in size (will measure for final 
report) echodensity with mobile components is seen on the LVOT 
side of the non-coronary cusp of the aortic valve consistent 
with a vegetation. Trace aortic regurgitation. No abscesses 
appreciated. Dynamic interatrial septum.
Simple atheroma ascending aorta and aortic arch. A ?moderate in 
size (will measure for final report) echodensity with mobile 
components is seen on the LVOT side of the non-coronary cusp of 
the aortic valve consistent with a vegetation. Trace aortic 
regurgitation. No abscesses appreciated. Dynamic interatrial 
septum. Simple atheroma ascending aorta and aortic arch.

Tunneled Dialysis Line Placement ___
IMPRESSION:  
  
Successful placement of a  27cm tip-to-cuff length tunneled 
dialysis line.  The tip of the catheter terminates in the right 
atrium. The catheter is ready for use. 

TTE ___ 
Left Ventricle - Ejection Fraction:   56%
The left atrium is mildly elongated. Left ventricular wall 
thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is low normal (biplane LVEF 56%). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
The pulmonary artery systolic pressure could not be determined. 
There is a very small pericardial effusion. 

IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes with low normal global left ventricular systolic 
function. Mild mitral regurgitation. No discrete 
vegetation/abscess identified. Compared with the prior study 
(images reviewed) of ___, the findings are similar

Dialysis Catheter Removal ___
The procedure was performed at bedside. The Left chest tunneled 
line site was cleaned and draped in standard sterile fashion. 1% 
lidocaine was administered around the tube track. The cuff was 
loosened with a bent forceps. The catheter was removed with 
gentle traction while manual pressure was held at the venotomy 
site. Hemostasis was achieved after 5 min of manual pressure. A 
clean sterile dressing was applied. The patient tolerated the 
procedure well. There were no immediate postprocedural 
complications.   
FINDINGS:  Expected appearance after tunneled line removal.   
IMPRESSION: Successful removal of a left chest tunneled line 

DISCHARGE LABS
===============
___ 06:25AM BLOOD WBC-10.0 RBC-3.53* Hgb-10.3* Hct-30.7* 
MCV-87 MCH-29.2 MCHC-33.6 RDW-13.2 RDWSD-41.4 Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-98 UreaN-42* Creat-4.8*# K-4.7 
Cl-95* HCO3-25 AnGap-18
___ 06:25AM BLOOD Calcium-9.0 Phos-6.3* Mg-1.9
___ 06:25AM BLOOD Vanco-17.4
 
Brief Hospital Course:
___ is a ___ with DMII c/b ESRD on HD MWF p/w 2 days 
of fevers and positive blood cultures with MRSA, now s/p HD 
port removal and identification of aortic valve vegetation. 

# MRSA BACTEREMIA LIKELY DUE TO LINE INFECTION
# MRSA ENDOCARDITIS OF AORTIC VALVE 
Patient presented from his ___ facility on ___ after 
episode of fevers, rigors, found to have high grade MRSA 
bacteremia (positive culture at rehab ___ 1 of 4 cultures  on 
___ with MRSA). Likely etiology is  line sepsis from infected 
tunneled HD catheter and this was removed on ___. TTE was done 
which was suboptimal quality but did not show any vegetations. 
TEE on ___ndocarditis with mod vegetation on AV 
cusp. No paravalvular abscess seen. Repeat surveillance blood 
cultures were negative. New tunneled hemodialysis line was 
placed ___. Plan is to treat with 6 weeks of vancomycin dosed 
with HD through ___. Will follow-up in ___ clinic.

#ESRD on HD MWF
#Hyperkalemia
Patient was initiated on HD during his last hospitalization 
___. Renal failure is secondary to diabetic nephropathy. 
Still makes urine. He was given a line holiday and missed 
dialysis session on ___ and ___. CMP checked daily, hyperK+ 
and hypervolemia treated with insulin/dextrose and 100 mg Lasix 
and insulin/dextrose PRN. HD tunneled line was replaced on 
___.  He was kept on strict low K+ diet, strict ___ mL fluid 
restriction and continued on home nephro caps, calcitriol, 
calcium carbonate and Vitamin D. Last dialysis session on ___. 
His home Lisinopril was held and then restarted on discharge. 
  
#s/p right toe amputation
Healing well, no signs of infection. Podiatry curbsided and had 
a very low suspicion for infection, but recommened x-ray to 
ensure no signs of osteo, though patient declined. CRP ~11. 

#DIABETES MELLITUS II
Previously followed by ___. Most recent A1C 6.6%. Continued 
home glargine and Humalog SS.  

#HYPERTENSION
SBP 140-150s. Continued on Lisinopril on discharge. 

#HLD: Continued on atorvastatin 20mg QHS and ASA 81mg daily
 
#ANEMIA
Hb 11.3, bl ___. Unclear why higher than usual, maybe some 
component of hemoconcentration in setting of fever and 
bacteremia. Iron studies from ___ suggestive of anemia of 
chronic inflammation; B12 normal. Anemia likely due to ESRD. 
EPO 10,000units q14 days per renal recs.

TRANSITIONAL ISSUES 
===================
- Continue vancomycin with hemodialysis sessions (end date ___ 
for a total of 6 weeks. 
- Weekly CBC/diff, vanc levels at least every other week, and 
CRP every ___ weeks, and surveillance blood cultures at the end 
of his course. PLEASE DRAW DURING HD SESSIONS, ALL LAB RESULTS 
SHOULD BE SENT TO: ATTN: ___ CLINIC - FAX: ___
- ___ clinic follow-up, likely surveillance culture after abx

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. LORazepam 0.5 mg PO PRE DIALYSIS 
3. Epoetin ___ ___ UNIT IV Q14 DAYS 
4. Atorvastatin 20 mg PO QPM 
5. Furosemide 20 mg PO DAILY 
6. TraMADol 50 mg PO UNKNOWN, PRN Pain - Moderate 
7. Polyethylene Glycol 17 g PO Frequency is Unknown 
8. Calcium Carbonate 500 mg PO TID 
9. Aspirin 81 mg PO DAILY 
10. Calcitriol 0.25 mcg PO DAILY 
11. Vitamin D ___ UNIT PO DAILY 
12. Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0 
2.  Vancomycin 1000 mg IV WITH HD 
RX *vancomycin 1 gram 1 g IV with HD Disp #*15 Vial Refills:*0 
3.  Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
4.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 20 mg PO QPM  
7.  Calcitriol 0.25 mcg PO DAILY  
8.  Calcium Carbonate 500 mg PO TID  
9.  Epoetin ___ ___ UNIT IV Q14 DAYS  
10.  Furosemide 20 mg PO DAILY  
11.  Lisinopril 5 mg PO DAILY  
12.  LORazepam 0.5 mg PO PRE DIALYSIS 
RX *lorazepam 0.5 mg 1 tablet by mouth predialysis Disp #*2 
Tablet Refills:*0 
13.  Vitamin D ___ UNIT PO DAILY  
14.Outpatient Lab Work
Weekly CBC/diff, vanc levels at least every other week, and CRP 
every ___ weeks, and surveillance blood cultures at the end of 
his course. Please draw with HD, ALL LAB RESULTS SHOULD BE SENT 
TO: ATTN: ___ CLINIC - FAX: ___.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
MRSA Bacteremia 
ESRD on HD
Hyperkalemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ with fevers. You had bacteria in your 
blood and were treated with intravenous antibiotics. We 
suspected the source of this infection to be from your 
hemodialysis line which was removed. We replaced your 
hemodialysis line. You underwent echocardiograms of your heart 
which found a bacteria in one of your heart valves. You will 
need antibiotics for several weeks with your hemodialysis 
sessions. It was a pleasure caring for you. 

Wishing you the best,

Your ___ Team 
 
Followup Instructions:
___